US06294558B1
1-(4-Bromophenyl)-2-phenylethanone. (step 1)
The title compound was prepared according to the procedure of step 1 in the Example 169 using benzyl bromide and 4-bromo-3-methylbenzoyl chloride, instead of 4-bromobenzoyl chloride.

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-bromo-3-methylbenzoyl chloride | BrC1=C(C=C(C(=O)Cl)C=C1)C | C8H6BrClO
reactant | 4-bromobenzoyl chloride | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
product | 1-(4-Bromophenyl)-2-phenylethanone | BrC1=CC=C(C=C1)C(CC1=CC=CC=C1)=O | C14H11BrO
